US04126628
N6 -Caproyl-L-lysine (ε-N-Decanoyl-L-lysine)
Similarly, as in example 2, the title compound was prepared using L-lysine monohydrochloride (7.30 g, 40 mmol) and succinimidyl caprate (10.7 g, 40 mmol) in the presence of triethylamine (16.8 ml, 120 mmol) in 35 ml of water and 36 ml of acetone. The product was washed with cold water and with cold ethanol then dried giving 9.04 g (78%) of the desired compound. Infrared: 1580-1590 cm-1 (ionized carboxyl), 1520-1540 and 1640 cm-1 (amide bands).

reactant | L-lysine monohydrochloride | 40 mmol, 7.30 g | Cl.N[C@@H](CCCCN)C(=O)O
reactant | succinimidyl caprate | 40 mmol, 10.7 g | O(C(=O)CCCCCCCCC)N1C(CCC1=O)=O | C14H23NO4
reactant | triethylamine | 120 mmol, 16.8 ml | C(C)N(CC)CC | C6H15N
solvent | water | 35 ml | O | H2O
solvent | acetone | 36 ml | CC(=O)C | C3H6O
product | N6 -Caproyl-L-lysine | 9.04 g, 78% | C(CCCCC)(=O)NCCCC[C@H](N)C(=O)O | C12H24N2O3
